US07737142B2
Trans-1-{4-[2-[4-(2,3-dichlorophenyl)-piperazin-1-yl]-ethyl]-cyclohexyl}-3,3-dimethyl-urea (compound 1)
1.39 g (3 mmol) trans-4-{2-[4-(2,3-dichlorophenyl)-piperazin-1-yl]-ethyl}-cyclohexyl-amine trihydrochloride was suspended in dichloromethane (100 ml), triethylamine (2.1 ml, 15 mmol) was added followed by 0.30 ml (3.3 mmol) N,N-dimethylcarbamoylchloride. The reaction mixture was stirred for 48 hours at room temperature, filtered. The filtrate was washed with water (2×20 ml), dried and evaporated in vacuo. Recrystallizing from methanol gave the title compound (0.83 g, 65%), melting at 212-4° C.

reactant | trans-4-{2-[4-(2,3-dichlorophenyl)-piperazin-1-yl]-ethyl}-cyclohexyl-amine trihydrochloride | 3 mmol, 1.39 g | Cl.Cl.Cl.ClC1=C(C=CC=C1Cl)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)N
reactant | triethylamine | 15 mmol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylcarbamoylchloride | 3.3 mmol, 0.30 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Trans-1-{4-[2-[4-(2,3-dichlorophenyl)-piperazin-1-yl]-ethyl]-cyclohexyl}-3,3-dimethyl-urea | 0.83 g, 65% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CC[C@@H]1CC[C@H](CC1)NC(=O)N(C)C | C21H32Cl2N4O
